US09259470B2
5% Pd/C (0.15 g) was added to (S)-dibenzyl (2-(4-chloro-3-fluorophenyl)-2-(2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)ethyl) phosphate (978 mg) under nitrogen. MeOH (8 mL) was added, and the mixture was purged with a hydrogen balloon. The mixture was left under hydrogen overnight. The mixture was filtered through Celite®, and the solvent was removed to leave a solid. The solid was purified by HPLC to obtain (S)-2-(4-chloro-3-fluorophenyl)-2-(2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)ethyl dihydrogen phosphate (3.8 mg). MS=525.0.

reactant | (S)-dibenzyl (2-(4-chloro-3-fluorophenyl)-2-(2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)ethyl) phosphate | 978 mg | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)OC[C@@H](N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C1=CC(=C(C=C1)Cl)F | C36H35ClFN4O6P
catalyst | Pd/C | 0.15 g | [Pd] | Pd
solvent | MeOH | 8 mL | CO | CH4O
product | (S)-2-(4-chloro-3-fluorophenyl)-2-(2-oxo-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-1(2H)-yl)ethyl dihydrogen phosphate | 3.8 mg | P(=O)(OC[C@@H](N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C1=CC(=C(C=C1)Cl)F)(O)O | C22H23ClFN4O6P
